US09255110B2
A mixture of 5-chloro-3-methyl-thieno[3,2-b]pyridine (0.5 g, 2.7 mmol), N-bromosuccinimide (0.48 g, 2.7 mmol) and benzoyl peroxide (50 mg) in carbon tetrachloride (3 mL) was heated at 100° C. in a microwave reactor for 15 minutes. The supernatant was decanted and evaporated under reduced pressure, the residue was suspended in toluene (3 mL) and pyridine-N-oxide (0.5 g) was added, followed by sodium bicarbonate (0.4 g) and diisopropylethylamine (3 drops). The reaction mixture was heated at 150° C. in a microwave reactor for 5 minutes, was then diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (EtOAc/hexane, 20/80) to give 150 mg of 5-chloro-thieno[3,2-b]pyridine-3-carbaldehyde.

reactant | 5-chloro-3-methyl-thieno[3,2-b]pyridine | 2.7 mmol, 0.5 g | ClC1=CC=C2C(=N1)C(=CS2)C | C8H6ClNS
reactant | N-bromosuccinimide | 2.7 mmol, 0.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloro-thieno[3,2-b]pyridine-3-carbaldehyde | 150 mg | ClC1=CC=C2C(=N1)C(=CS2)C=O | C8H4ClNOS
